US05041604
Operation was carried out in the same manner as in Example 2, using 1,3-propylene dichloride (108 g, 0.96 mol), p-cresol (205 g, 1.90 mol), water (35 ml) and a 49% aqueous solution of NaOH (106 g, 1.30 mol; a first dropwise addition) and further 79 g, 0.97 mol (a second dropwise addition), to obtain 1,3-di(4-methylphenoxy)propane in the form of white plate crystals (178 g). Yield: 73.2% based on p-cresol. M.P.: 93.5° C. Purity: 99.6%.

reactant | 1,3-propylene dichloride | 0.96 mol, 108 g | C(CCCl)Cl | C3H6Cl2
reactant | p-cresol | 1.90 mol, 205 g | C1=CC(=CC=C1O)C | C7H8O
reactant | NaOH | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
product | 1,3-di(4-methylphenoxy)propane | Yield: 73.2% | CC1=CC=C(OCCCOC2=CC=C(C=C2)C)C=C1 | C17H20O2
